US06194406B1
1-(2-Methoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(3,5-di(trifluoromethyl)phenylmethyl)-2-oxopyrrolidine
Prepare by the method of Example 7.6 using 1-(2-methoxybenzyl)-3-(3 5-di(trifluoromethyl)phenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt to give the title compound: Rf=0.54 (silica gel, 5% methanol/dichloromethane/0.5% concentrated aqueous ammonia).

reactant | 1-(2-methoxybenzyl)-3-(3 5-di(trifluoromethyl)phenylmethyl)-3-(2-methanesulfonyloxyethyl)-2-oxopyrrolidine | COC1=C(CN2C(C(CC2)(CCOS(=O)(=O)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C=CC=C1 | C24H25F6NO5S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2
product | 1-(2-Methoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(3,5-di(trifluoromethyl)phenylmethyl)-2-oxopyrrolidine | COC1=C(CN2C(C(CC2)(CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)=O)C=CC=C1 | C39H45F6N5O3
